US04395409
7-Bromo-2-phenylcarbamoyloxyamino-5-(2-pyridyl)-3H-1,4-benzodiazepine
1 g of sodium bicarbonate and 0.8 g of hydroxylammonium chloride are added to 3 g of 7-bromo-5-(2-pyridyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-thione in 60 ml of dioxane containing dimethylformamide and the mixture is stirred for 8 hours. 0.3 g of sodium bicarbonate and 0.25 g of hydroxylammonium chloride are again added and the mixture is stirred for 30 minutes at 50° C. The mixture is filtered off under suction when cold, and 1.0 ml of phenylisocyanate is added to the filtrate which is stirred for 1 hour. After the usual working up process, 1.6 g of colorless crystals are precipitated and are recrystallized from ethanol. Melting point 190° to 192° C.

reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
reactant | hydroxylammonium chloride | 0.8 g | [Cl-].O[NH3+]
reactant | 7-bromo-5-(2-pyridyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-thione | 3 g | BrC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C14H10BrN3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | 0.3 g | C([O-])(O)=O.[Na+]
reactant | hydroxylammonium chloride | 0.25 g | [Cl-].O[NH3+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 7-Bromo-2-phenylcarbamoyloxyamino-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NOC(NC2=CC=CC=C2)=O)C2=NC=CC=C2)C1 | C21H16BrN5O2
